*-- pdngen: spice deck generated for chip 'chiplet6' PDN
*-- die chiplet6:  W/H: 0.002/0.002


.subckt chiplet6
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_3_0
+nd_pad_port_3_2
*-- p/g port #: 8/8
+nd_1_0_3000_3000

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_1000 nd_1_0_3000_1000 0.016324
rd_1_2_0_0_1 nd_1_0_3000_1000 nd_1_0_5000_1000 0.016324
rd_1_2_0_0_2 nd_1_0_5000_1000 nd_1_0_7000_1000 0.016324
rd_1_2_0_0_3 nd_1_0_7000_1000 nd_1_0_9000_1000 0.016324
rd_1_2_0_1_0 nd_1_0_1000_3000 nd_1_0_3000_3000 0.016324
rd_1_2_0_1_1 nd_1_0_3000_3000 nd_1_0_5000_3000 0.016324
rd_1_2_0_1_2 nd_1_0_5000_3000 nd_1_0_7000_3000 0.016324
rd_1_2_0_1_3 nd_1_0_7000_3000 nd_1_0_9000_3000 0.016324
rd_1_2_0_2_0 nd_1_0_1000_5000 nd_1_0_3000_5000 0.016324
rd_1_2_0_2_1 nd_1_0_3000_5000 nd_1_0_5000_5000 0.016324
rd_1_2_0_2_2 nd_1_0_5000_5000 nd_1_0_7000_5000 0.016324
rd_1_2_0_2_3 nd_1_0_7000_5000 nd_1_0_9000_5000 0.016324
rd_1_2_0_3_0 nd_1_0_1000_7000 nd_1_0_3000_7000 0.016324
rd_1_2_0_3_1 nd_1_0_3000_7000 nd_1_0_5000_7000 0.016324
rd_1_2_0_3_2 nd_1_0_5000_7000 nd_1_0_7000_7000 0.016324
rd_1_2_0_3_3 nd_1_0_7000_7000 nd_1_0_9000_7000 0.016324
rd_1_2_0_4_0 nd_1_0_1000_9000 nd_1_0_3000_9000 0.016324
rd_1_2_0_4_1 nd_1_0_3000_9000 nd_1_0_5000_9000 0.016324
rd_1_2_0_4_2 nd_1_0_5000_9000 nd_1_0_7000_9000 0.016324
rd_1_2_0_4_3 nd_1_0_7000_9000 nd_1_0_9000_9000 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_1000 nd_2_0_1000_3000 0.016324
rd_2_1_0_0_1 nd_2_0_1000_3000 nd_2_0_1000_5000 0.016324
rd_2_1_0_0_2 nd_2_0_1000_5000 nd_2_0_1000_7000 0.016324
rd_2_1_0_0_3 nd_2_0_1000_7000 nd_2_0_1000_9000 0.016324
rd_2_1_0_1_0 nd_2_0_3000_1000 nd_2_0_3000_3000 0.016324
rd_2_1_0_1_1 nd_2_0_3000_3000 nd_2_0_3000_5000 0.016324
rd_2_1_0_1_2 nd_2_0_3000_5000 nd_2_0_3000_7000 0.016324
rd_2_1_0_1_3 nd_2_0_3000_7000 nd_2_0_3000_9000 0.016324
rd_2_1_0_2_0 nd_2_0_5000_1000 nd_2_0_5000_3000 0.016324
rd_2_1_0_2_1 nd_2_0_5000_3000 nd_2_0_5000_5000 0.016324
rd_2_1_0_2_2 nd_2_0_5000_5000 nd_2_0_5000_7000 0.016324
rd_2_1_0_2_3 nd_2_0_5000_7000 nd_2_0_5000_9000 0.016324
rd_2_1_0_3_0 nd_2_0_7000_1000 nd_2_0_7000_3000 0.016324
rd_2_1_0_3_1 nd_2_0_7000_3000 nd_2_0_7000_5000 0.016324
rd_2_1_0_3_2 nd_2_0_7000_5000 nd_2_0_7000_7000 0.016324
rd_2_1_0_3_3 nd_2_0_7000_7000 nd_2_0_7000_9000 0.016324
rd_2_1_0_4_0 nd_2_0_9000_1000 nd_2_0_9000_3000 0.016324
rd_2_1_0_4_1 nd_2_0_9000_3000 nd_2_0_9000_5000 0.016324
rd_2_1_0_4_2 nd_2_0_9000_5000 nd_2_0_9000_7000 0.016324
rd_2_1_0_4_3 nd_2_0_9000_7000 nd_2_0_9000_9000 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_1000 nd_2_0_1000_1000 0.005
rvd_1_0_0_1 nd_1_0_3000_1000 nd_2_0_3000_1000 0.005
rvd_1_0_0_2 nd_1_0_5000_1000 nd_2_0_5000_1000 0.005
rvd_1_0_0_3 nd_1_0_7000_1000 nd_2_0_7000_1000 0.005
rvd_1_0_0_4 nd_1_0_9000_1000 nd_2_0_9000_1000 0.005
rvd_1_0_1_0 nd_1_0_1000_3000 nd_2_0_1000_3000 0.005
rvd_1_0_1_1 nd_1_0_3000_3000 nd_2_0_3000_3000 0.005
rvd_1_0_1_2 nd_1_0_5000_3000 nd_2_0_5000_3000 0.005
rvd_1_0_1_3 nd_1_0_7000_3000 nd_2_0_7000_3000 0.005
rvd_1_0_1_4 nd_1_0_9000_3000 nd_2_0_9000_3000 0.005
rvd_1_0_2_0 nd_1_0_1000_5000 nd_2_0_1000_5000 0.005
rvd_1_0_2_1 nd_1_0_3000_5000 nd_2_0_3000_5000 0.005
rvd_1_0_2_2 nd_1_0_5000_5000 nd_2_0_5000_5000 0.005
rvd_1_0_2_3 nd_1_0_7000_5000 nd_2_0_7000_5000 0.005
rvd_1_0_2_4 nd_1_0_9000_5000 nd_2_0_9000_5000 0.005
rvd_1_0_3_0 nd_1_0_1000_7000 nd_2_0_1000_7000 0.005
rvd_1_0_3_1 nd_1_0_3000_7000 nd_2_0_3000_7000 0.005
rvd_1_0_3_2 nd_1_0_5000_7000 nd_2_0_5000_7000 0.005
rvd_1_0_3_3 nd_1_0_7000_7000 nd_2_0_7000_7000 0.005
rvd_1_0_3_4 nd_1_0_9000_7000 nd_2_0_9000_7000 0.005
rvd_1_0_4_0 nd_1_0_1000_9000 nd_2_0_1000_9000 0.005
rvd_1_0_4_1 nd_1_0_3000_9000 nd_2_0_3000_9000 0.005
rvd_1_0_4_2 nd_1_0_5000_9000 nd_2_0_5000_9000 0.005
rvd_1_0_4_3 nd_1_0_7000_9000 nd_2_0_7000_9000 0.005
rvd_1_0_4_4 nd_1_0_9000_9000 nd_2_0_9000_9000 0.005
*-- via layer 1-2: net: 0 VSS net
rdload_0_0_0_0 nd_1_0_1000_1000 0 280.94
rdesr_0_0_0_0 nd_1_0_1000_1000 nd_1_0_1000_1000_ci 280.94
cd_0_0_0_0 nd_1_0_1000_1000_ci 0 7.11895e-12
rdload_0_0_0_1 nd_1_0_3000_1000 0 543.302
rdesr_0_0_0_1 nd_1_0_3000_1000 nd_1_0_3000_1000_ci 543.302
cd_0_0_0_1 nd_1_0_3000_1000_ci 0 3.6812e-12
rdload_0_0_0_2 nd_1_0_5000_1000 0 5239.96
rdesr_0_0_0_2 nd_1_0_5000_1000 nd_1_0_5000_1000_ci 5239.96
cd_0_0_0_2 nd_1_0_5000_1000_ci 0 3.81682e-13
rdload_0_0_0_3 nd_1_0_7000_1000 0 96.4895
rdesr_0_0_0_3 nd_1_0_7000_1000 nd_1_0_7000_1000_ci 96.4895
cd_0_0_0_3 nd_1_0_7000_1000_ci 0 2.07276e-11
rdload_0_0_0_4 nd_1_0_9000_1000 0 959.652
rdesr_0_0_0_4 nd_1_0_9000_1000 nd_1_0_9000_1000_ci 959.652
cd_0_0_0_4 nd_1_0_9000_1000_ci 0 2.08409e-12
rdload_0_0_0_5 nd_1_0_1000_3000 0 89.0326
rdesr_0_0_0_5 nd_1_0_1000_3000 nd_1_0_1000_3000_ci 89.0326
cd_0_0_0_5 nd_1_0_1000_3000_ci 0 2.24637e-11
rdload_0_0_0_6 nd_1_0_3000_3000 0 104.517
rdesr_0_0_0_6 nd_1_0_3000_3000 nd_1_0_3000_3000_ci 104.517
cd_0_0_0_6 nd_1_0_3000_3000_ci 0 1.91357e-11
rdload_0_0_0_7 nd_1_0_5000_3000 0 3528.04
rdesr_0_0_0_7 nd_1_0_5000_3000 nd_1_0_5000_3000_ci 3528.04
cd_0_0_0_7 nd_1_0_5000_3000_ci 0 5.66886e-13
rdload_0_0_0_8 nd_1_0_7000_3000 0 96.0585
rdesr_0_0_0_8 nd_1_0_7000_3000 nd_1_0_7000_3000_ci 96.0585
cd_0_0_0_8 nd_1_0_7000_3000_ci 0 2.08206e-11
rdload_0_0_0_9 nd_1_0_9000_3000 0 113.712
rdesr_0_0_0_9 nd_1_0_9000_3000 nd_1_0_9000_3000_ci 113.712
cd_0_0_0_9 nd_1_0_9000_3000_ci 0 1.75882e-11
rdload_0_0_0_10 nd_1_0_1000_5000 0 879.63
rdesr_0_0_0_10 nd_1_0_1000_5000 nd_1_0_1000_5000_ci 879.63
cd_0_0_0_10 nd_1_0_1000_5000_ci 0 2.27368e-12
rdload_0_0_0_11 nd_1_0_3000_5000 0 103.34
rdesr_0_0_0_11 nd_1_0_3000_5000 nd_1_0_3000_5000_ci 103.34
cd_0_0_0_11 nd_1_0_3000_5000_ci 0 1.93537e-11
rdload_0_0_0_12 nd_1_0_5000_5000 0 484.764
rdesr_0_0_0_12 nd_1_0_5000_5000 nd_1_0_5000_5000_ci 484.764
cd_0_0_0_12 nd_1_0_5000_5000_ci 0 4.12572e-12
rdload_0_0_0_13 nd_1_0_7000_5000 0 2422.08
rdesr_0_0_0_13 nd_1_0_7000_5000 nd_1_0_7000_5000_ci 2422.08
cd_0_0_0_13 nd_1_0_7000_5000_ci 0 8.25736e-13
rdload_0_0_0_14 nd_1_0_9000_5000 0 213.671
rdesr_0_0_0_14 nd_1_0_9000_5000 nd_1_0_9000_5000_ci 213.671
cd_0_0_0_14 nd_1_0_9000_5000_ci 0 9.3602e-12
rdload_0_0_0_15 nd_1_0_1000_7000 0 779.473
rdesr_0_0_0_15 nd_1_0_1000_7000 nd_1_0_1000_7000_ci 779.473
cd_0_0_0_15 nd_1_0_1000_7000_ci 0 2.56584e-12
rdload_0_0_0_16 nd_1_0_3000_7000 0 181.482
rdesr_0_0_0_16 nd_1_0_3000_7000 nd_1_0_3000_7000_ci 181.482
cd_0_0_0_16 nd_1_0_3000_7000_ci 0 1.10204e-11
rdload_0_0_0_17 nd_1_0_5000_7000 0 256.833
rdesr_0_0_0_17 nd_1_0_5000_7000 nd_1_0_5000_7000_ci 256.833
cd_0_0_0_17 nd_1_0_5000_7000_ci 0 7.78718e-12
rdload_0_0_0_18 nd_1_0_7000_7000 0 465.007
rdesr_0_0_0_18 nd_1_0_7000_7000 nd_1_0_7000_7000_ci 465.007
cd_0_0_0_18 nd_1_0_7000_7000_ci 0 4.30101e-12
rdload_0_0_0_19 nd_1_0_9000_7000 0 94.0171
rdesr_0_0_0_19 nd_1_0_9000_7000 nd_1_0_9000_7000_ci 94.0171
cd_0_0_0_19 nd_1_0_9000_7000_ci 0 2.12727e-11
rdload_0_0_0_20 nd_1_0_1000_9000 0 111.349
rdesr_0_0_0_20 nd_1_0_1000_9000 nd_1_0_1000_9000_ci 111.349
cd_0_0_0_20 nd_1_0_1000_9000_ci 0 1.79616e-11
rdload_0_0_0_21 nd_1_0_3000_9000 0 136.239
rdesr_0_0_0_21 nd_1_0_3000_9000 nd_1_0_3000_9000_ci 136.239
cd_0_0_0_21 nd_1_0_3000_9000_ci 0 1.468e-11
rdload_0_0_0_22 nd_1_0_5000_9000 0 179.082
rdesr_0_0_0_22 nd_1_0_5000_9000 nd_1_0_5000_9000_ci 179.082
cd_0_0_0_22 nd_1_0_5000_9000_ci 0 1.11681e-11
rdload_0_0_0_23 nd_1_0_7000_9000 0 446.332
rdesr_0_0_0_23 nd_1_0_7000_9000 nd_1_0_7000_9000_ci 446.332
cd_0_0_0_23 nd_1_0_7000_9000_ci 0 4.48097e-12
rdload_0_0_0_24 nd_1_0_9000_9000 0 1712.3
rdesr_0_0_0_24 nd_1_0_9000_9000 nd_1_0_9000_9000_ci 1712.3
cd_0_0_0_24 nd_1_0_9000_9000_ci 0 1.16802e-12

*-- intentional decap
cd_add_cap0 nd_1_0_3000_3000 nd0 'dcap_int_val168'
cd_add_cap1 nd_1_0_7000_3000 nd1 'dcap_int_val169'
cd_add_cap2 nd_1_0_3000_7000 nd2 'dcap_int_val170'
cd_add_cap3 nd_1_0_7000_7000 nd3 'dcap_int_val171'
rd_add0 nd0 0 'esr47'
rd_add1 nd1 0 'esr48'
rd_add2 nd2 0 'esr49'
rd_add3 nd3 0 'esr50'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_3000  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_7000  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_1000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_5000  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_3000  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_7000  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_1000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_5000  0.001

.ends chiplet6
